US06893650B1
a) 2-Nitro-5-(3-trifluoromethylphenoxy)-m-xylene
A mixture of 3,5-dimethyl-4-nitrophenol (1.67 g), 3-trifluoromethylbenzene boronic acid (3.8 g), copper (1 acetate (1.82 g) and triethylamine (2.02 g) in dichloromethane (50 ml) was stirred at room temperature for 48 hours. The mixture was evaporated to dryness and purified by silica gel chromatography eluting with light petroleum (b.p. 60-80° C.)/ethyl acetate (19:1) to give the title product as an oil.

reactant | 3,5-dimethyl-4-nitrophenol | 1.67 g | CC=1C=C(C=C(C1[N+](=O)[O-])C)O | C8H9NO3
reactant | 3-trifluoromethylbenzene boronic acid | 3.8 g | FC(C=1C=C(C=CC1)B(O)O)(F)F | C7H6BF3O2
reactant | acetate | 1.82 g | C(C)(=O)[O-]
reactant | triethylamine | 2.02 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
catalyst | copper | [Cu] | Cu
product | 2-Nitro-5-(3-trifluoromethylphenoxy)-m-xylene | [N+](=O)([O-])C1=C(C=C(C=C1C)OC1=CC(=CC=C1)C(F)(F)F)C | C15H12F3NO3
